US07696136B2
Dibutyl Malate
A 100 mL three-neck flask, equipped with a magnetic stir bar, a Claisen adapter with a thermocouple and a nitrogen inlet, and a short path condenser, was charged with 4.45 grams of dimethyl malate, 40 mL 1-butanol, and 0.51 gram of p-toluenesulfonic acid. The reaction was stirred at 115° C. for 3.7 hours with a nitrogen sweep. The reaction mixture was taken up in ethyl acetate, extracted with dilute aqueous sodium bicarbonate, washed three times with water, dried over magnesium sulfate, and filtered. Solvent was removed by rotary evaporation to yield 6.8 grams of a straw-colored liquid.

reactant | dimethyl malate | 4.45 grams | C(C(O)CC(=O)OC)(=O)OC | C6H10O5
reactant | 1-butanol | 40 mL | C(CCC)O | C4H10O
reactant | p-toluenesulfonic acid | 0.51 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dibutyl Malate | 6.8 grams | C(C(O)CC(=O)OCCCC)(=O)OCCCC | C12H22O5
